US05061717
5-[4-(Benzylthio)phenylmethylene]-thiazolidine-2,4-dione
4-(Benzylthio)benzaldehyde (20.8 g) was fused with thiazolidine-2,4-dione according to the method of Example 5 to afford 15 g of present title product; m.p. 237°-238° C.

reactant | 4-(Benzylthio)benzaldehyde | 20.8 g | C(C1=CC=CC=C1)SC1=CC=C(C=O)C=C1 | C14H12OS
reactant | thiazolidine-2,4-dione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[4-(Benzylthio)phenylmethylene]-thiazolidine-2,4-dione | 15 g | C(C1=CC=CC=C1)SC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C17H13NO2S2
